Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Penicillins / Glucocorticoids (Corticosteroids) / 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Anasarca, cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with history of NSIP (reportedly on home ___ NC/high flow), obesity, IDDM, CHF, mitral stenosis, 
recently discharged from Hospice after clinical stability ___ 
year, sent in to ___ on ___ by PCP for concern of necrotizing 
groin infection. Patient found to be anasarcic and hypoglycemic, 
with imaging findings that raised question for appendicitis and 
perineal cellulitis without subcutaneous gas. She was seen by 
surgery who did not feel that there were any acute surgical 
issues. ID and surgery felt that groin rash was c/w ___ with 
possible overlying cellulitis and she was started on fluconazole 
and clindamycin. For her anasarca, there was concern of worsened 
R heart failure with elevated BNP, while her respiratory status 
was at baseline. Echo reportedly showed mod-severe MV stenosis 
and elevated PASP (per OSH d/c summary, no report or images 
included). Seen by Cardiology who recommended initiation of 
lasix drip and she is transferred here for higher level of care. 
During her stay there, patient remained afebrile, with BPs in 
90-110's/60-90's, HR 60-80's, SaO2 >92% on ___ mask ___ FiO2 
50%, weight 91kg. Initially accepted to the Cardiology service, 
switched to Medicine admission for multiple ___ medical 
issues.  
On arrival to the medicine floor, initial VS are 97.3, 97/82, 
68, 18, 96% 3L, BG 174. She reports having felt unwell for 2 
weeks PTA with increasing dyspnea, ___ swelling, pain, weakness. 
She has had blisters on her arms that have popped, and she 
endorses picking at the ulcers. She feels that there are bugs 
eating her flesh from the inside. Her ___ has been helping her 
with foot care, but has not had any help with her GU hygiene. 
Reports to be compliant with all home meds. Denies any dietary 
changes, but does not keep a low salt diet. Currently she 
complains of pain all over her body, mostly in legs and groin. 
Pain has improved since presentation to hospital. Respiratory 
status at baseline.  

 
Past Medical History:
# Non-specific interstitial pneumonitis (possibly idiopathic 
pulmonary hemosiderosis?)  
- s/p lung biopsy by VATS ___ at ___, lost to follow-up until 
___  
- followed by ___  
- Home O2 requirement of ___  
- ___ PFTs: DLCO 40% predicted, TLC 58% predicted, FEV1 54%  

- Overall consistent with restrictive lung disease  
# CHF, chronic diastolic  
# Mitral stenosis, mild, area 1.5-2.0cm2, appearance of valve 
consistent with Rheumatic heart disease  
# Diabetes Mellitus, on insulin  
# Depression  
# Chronic pain status post MVA  
# ?Cardiomegaly  
# TTE with ?rheumatic MV disease  
# CAD s/p MI (normal MIBI in ___  
# Cervical dysplasia  
# Colonic polyps s/p multiple polypectomies  
# Hiatal hernia  
# Migraines 
.
PAST SURGICAL HISTORY:  
# TAH-BSO  
# Cervical cone bx  
# Mediastinoscopy & L VATS ___   

 
Social History:
___
Family History:
per OMR): She has two children. She has several relatives who  
have had lung problems and has died from complications related  
lung disease. Her mother had COPD, died of respiratory failure,  

father with cardiovascular disease. She had a sister who died  
after a lung biopsy was performed. She states that several of  
her family members may have had asbestos exposure including the  

patient.  

 
Physical Exam:
On admission:
Vitals - 97.3, 97/82, 68, 18, 96% 3L 35% ___  
GENERAL: Alert, interactive, teary and emotionally labile  
HEENT: sclera anicteric, conjunctiva clear. Dry mucous membranes 
 
NECK: nontender supple neck, no LAD, difficult to assess JVD due 
to body habitus  
CARDIAC: regular rhythm, distant heart sounds, no murmurs 
appreciated  
LUNG: CTAB, no wheezes or crackles  
ABDOMEN: obese, soft, non-distended, non-tender.  
GU: Indurated erythematous skin suprapubic from inferior pannus 
extending into proximal thighs. Intertriginous erythema and 
superficial ulceration. No purulent discharge. No area of 
fluctuance  
EXTREMITIES: Tense edema of ___ ___ with erythema and warmth 
diffusely throughout. Multiple 1-2 cm excoriated areas on ___ UE 
and ___. Pulses present and symmetric.  
NEURO: CN II-XII intact, oriented x3.  

On discharge:
Vitals- Wt 97.2kg Tm 98 Tc 97.3 BP 107/82 HR 66 RR 20 SpO2 97% 
4L/45% ventimask
24h I/Os: ___
GENERAL: sitting in chair, pleasant, interactive, in NAD
HEENT: sclera anicteric, conjunctiva clear, MMM
CARDIAC: regular rhythm, distant heart sounds, no murmurs 
LUNG: CTAB, no wheezes, rhonchi or crackles  
ABDOMEN: obese, soft, non-distended, non-tender. +BS. Some 
induration suprapubically (chronic). 
GU: Folds of groin are non-erythematous, non-ulcerative ___. 
EXTREMITIES: Trace dependent edema in lower extremities ___ 
are reddish in color ___, feet are darker red and cool to touch, 
but improved from pior. Peripheral pulses dopplerable. Multiple 
healing 1-2 cm excoriated areas on UE and ___, improving 
since admission. 
NEURO: Alert and oriented x 3, fluent days of week backwards, no 
auditory or visual hallucinations. Moving all extremities 
spontaneously.  

 
Pertinent Results:
Admission labs:
___ 03:46AM BLOOD WBC-7.7 RBC-5.43*# Hgb-15.3# Hct-48.6*# 
MCV-90# MCH-28.2 MCHC-31.5 RDW-16.2* Plt ___
___ 03:46AM BLOOD ___ PTT-40.3* ___
___ 03:46AM BLOOD Glucose-125* UreaN-16 Creat-1.1 Na-142 
K-4.3 Cl-95* HCO3-35* AnGap-16
___ 03:46AM BLOOD ALT-26 AST-44* AlkPhos-212* TotBili-1.6* 
DirBili-0.9* IndBili-0.7
___ 03:46AM BLOOD Albumin-3.4* Calcium-8.0* Phos-3.8 
Mg-1.5*

Micro: None

Imaging:
___ ECHO
IMPRESSION: Suboptimal image quality. Mild mitral stenosis. 
Right ventricular cavity dilation with free wall 
hypokinesis.Pulmonary artery hypertension. Biatrial dilation. 
Compared with the prior study (images reviewed) of ___, 
the right ventricular cavity is now dilated with free wall 
hypokinesis and there is pulmonary artery hypertension.

___ CXR
FINDINGS:  Comparison is made to a previous study from ___. 
Heart size is enlarged.  There is widening of the mediastinum.  
There is 
prominence of the pulmonary interstitial markings consistent 
with mild 
pulmonary edema.  There are no pleural effusions or 
pneumothoraces. 

___ RUQ ultrasound
1. Patient refused full examination. Based on this limited 
examination there are no focal liver lesions. 
2. Pulsatile portal vein may suggest right heart failure. 

Discharge labs:
___ 10:30AM BLOOD WBC-7.6 RBC-5.42* Hgb-14.9 Hct-48.3* 
MCV-89 MCH-27.6 MCHC-30.9* RDW-16.1* Plt ___
___ 10:30AM BLOOD Glucose-123* UreaN-15 Creat-0.9 Na-141 
K-4.1 Cl-96 HCO___-34* AnGap-15
___ 10:30AM BLOOD Calcium-9.2 Phos-3.9 Mg-1.___ woman with h/o interstitial lung disease c/b pulmonary 
hypertension, mitral stenosis s/p valvuloplasty in ___, HTN, DM 
on insulin and obesity, who presented to OSH on ___ with 
anasarca and concern of groin infection, transferred to ___ 
___ for management of suspected right heart failure. She was 
diuresed with a lasix drip transitioned to bolus and then oral. 
She was treated for groin cellulitis and candidal intertrigo. 

Active issues:

# Right-sided heart failure
Patient was continued on a IV lasix drip from OSH upon transfer 
to ___. Cardiology was consulted and an ECHO study here showed 
moderate pulmonary hypertension and mild mitral valve stenosis, 
consistent with right-sided heart failure leading to lower 
extremity swelling. She remained on a IV lasix gtt with brisk 
diuresis to goal negative 2L/day, then was transitioned to IV 
lasix BID with continued diuresis to goal and significant 
improvement in lower extremity edema. After swelling resolved, 
she was put on a home maintenance dose of lasix 40mg PO BID. She 
will follow-up with cardiolgy as an outpatient. Weight upon 
discharge was 97.2kg.   

# Groin cellulitis and candidal intertrigo
Per PCP, patient developed infection of her perineum/groin after 
spraying herself with insecticide. The patient noted that she 
thought someone had brought lice inter her house so she used 
"lice spray" over her body. She was started on clindamycin and 
fluconazole for cellulitis and candidal intertrigo at the 
outside hospital, and completed a total 7-day course here with 
complete resolution of the infection. She has residual 
intertrigo but no evidence of superinfection. 

# Lower extremity venous stasis 
Patient presented with dark reddish-purple discoloration in her 
lower extremities bilaterally. This was consistent with venous 
stasis changes. Her feet were also cool to touch but she had 
dopplerable pulses bilaterally throughout hospital course. With 
diuresis the color did improve slightly. However, it is 
recommended that she have bilateral ABIs as an outpatient to 
asses lower extremity arterial flow. 

# Skin excoriations
The patient presented with multiple skin excoriations of unknown 
etiology for which she was provided daily wound care with marked 
improvement of the skin lesions.

# Anxiety/hallucinations
Per PCP, patient developed the skin infection after spraying 
herself with insecticide as she thought that bugs were crawling 
out of her skin. Per patient, her family member had brought lice 
into the home and she sprayed herself with lice spray to treat 
it. Patient was reportedly very anxious at OSH regarding "bugs 
crawling out of her skin" and was started on quetiapine prn. She 
did not express this or any other hallucinations following 
admission here. Patient was reportedly taking both diazepam and 
lorazepam at home. Here, her home diazepam was continued but 
lorazepam was held.  Patient's anxiety was well-controlled on 
this for the remainder of her stay. On discharge, mental status 
exam was normal - she was alert and oriented x 3 with no 
auditory or visual hallucinations. She was discharged on her 
home diazepam dose with lorazepam held. 

Chronic issues:

# Interstitial lung disease
Patient was breathing comfortably and saturating > 94% on her 
home oxygen requirement (4L NC and 50% ventimask) throughout 
hospitalization.

# DM
Hypoglycemic on admission to OSH and home lantus was held. Here, 
it was restarted and blood sugars remained well-controlled with 
this and humalog sliding scale. Home metformin was held.   

# HTN:
Continued home metoprolol. 

# CAD s/p MI (normal MIBI in ___  
Continued Crestor

# Chronic pain:  
Continued home MS contin as well as morphine ___ for breakthrough 
pain. She only requested 2 doses of morphine ___ throughout 
hospital course, so this was discontinued on discharge.

# Migraines
Controlled with acetaminophen prn.

# GERD
Controlled with Zantac prn.

Transitional issues:
- She was discharged on furosemide 40mg PO BID as maintenance to 
keep her euvolemic. Her weight on discharge was 97.2kg. She has 
a follow-up appointment with Cardiology for continued 
management. ___ will continue to weigh the patient at home to 
monitor for any gain of weight.
- Patient's feet were dark purple and cool to touch but she had 
dopplerable pulses ___. Recommend ABIs as an oupatient to assess 
for peripheral arterial disease.
- Patient presented with multiple skin excoriations of unknown 
etiology for which she was provided daily wound care with marked 
resolution of the skin lesions. She is set up with home services 
to provide her continued wound care.
- At OSH and on admission, patient was reporting that "bugs were 
crawling out of her skin." She did not express these thoughts or 
any other hallucinations thereafter. Her anxiety was 
well-controlled with diazepam 2.5 mg PO Q8H:PRN anxiety but we 
discharged her on her home dose of 5mg and continued to hold her 
home lorazepam. Would titrate as needed.
- Weight on discharge 97.2kg
- Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB, wheezing 
2. Diazepam 5 mg PO Q8H:PRN anxiety 
3. Furosemide 20 mg PO TAKE 40MG IN AM AND 20MG IN ___ 
4. HydrOXYzine 50 mg PO BID 
5. Lantus (insulin glargine) 38 units subcutaneous QHS 
6. Lorazepam 0.5 mg PO TID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Morphine SR (MS ___ 60 mg PO Q8H 
10. Nystatin Cream 1 Appl TP BID 
11. Potassium Chloride 20 mEq PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Morphine Sulfate (Oral Soln.) 20 mg PO 1 ML UP TO THREE 
TIMES DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB, wheezing 
2. Diazepam 5 mg PO Q8H:PRN anxiety 
3. Furosemide 40 mg PO BID 
RX *furosemide 40 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0
4. Morphine SR (MS ___ 60 mg PO Q8H 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Lantus (insulin glargine) 38 units subcutaneous QHS 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Potassium Chloride 20 mEq PO DAILY 
10. Magnesium Oxide 800 mg PO BID 
RX *magnesium oxide 400 mg 2 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
11. Rosuvastatin Calcium 40 mg PO DAILY 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0
12. HydrOXYzine 25 mg PO BID:PRN itching 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Right-sided heart failure, cellulitis

Secondary: Interstitial lung disease, moderate pulmonary 
hypertension, mitral valve stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Assistance (walker)

 
Discharge Instructions:
Dear Ms. ___,

You were transferred to ___ from ___ for 
further management of your swollen legs and a skin infection. We 
did an ultrasound study of your heart, which showed evidence of 
right-sided heart failure. This caused fluid to back up and 
accumulate in your legs. We started you on high dose furosemide 
and successfully removed the extra fluid. You will go home on 
oral furosemide that should keep your fluid level even. Please 
weigh yourself every morning and call the doctor if your weight 
goes up more than 3 lbs, as this may indicate that excess fluid 
is building up again. We have also arranged an appointment for 
you to see a cardiologist.

While here, you were also treated with antibiotics and 
antifungal medication for a skin infection. The infection 
resolved with treatment. Please refrain from applying any sort 
of chemicals or irritants to your skin. 

A physical therapist will come to your home and work with you to 
improve your mobility. A nurse ___ also visit you at home to 
provide care to your skin and to assess your weight. 
 
 
Followup Instructions:
___